US06992087B2
methyl 5-bromo-3-(2,4-dichlorophenyl)-6-{[(1R,2S)-2-hydroxy-2,3-dihydro-1H-inden-1-yl]amino}pyrazine-2-carboxylate
Following the procedure for the preparation of methyl 3-bromo-6-{[(1R,2S)-2-hydroxy-2,3-dihydro-1H-inden-1-yl]amino}pyrazine-2-carboxylate but substituting methyl 3-(2,4-dichlorophenyl)-6-{[(1R,2S)-2-hydroxy-2,3-dihydro-1H-inden-1-yl]amino}pyrazine-2-carboxylate and making non-critical variations provided the title compound as a solid: 1H NMR (CDCl3) δ 2.99-3.04, 3.20-3.25, 3.70, 3.99-4.08, 4.77, 5.59-5.62, 6.11, 7.24-7.38; MS (ESI+) for C21H16BrCl2N3O3 m/z 509 (M+H)+.

reactant | methyl 3-bromo-6-{[(1R,2S)-2-hydroxy-2,3-dihydro-1H-inden-1-yl]amino}pyrazine-2-carboxylate | BrC=1C(=NC(=CN1)N[C@H]1[C@H](CC2=CC=CC=C12)O)C(=O)OC | C15H14BrN3O3
reactant | methyl 3-(2,4-dichlorophenyl)-6-{[(1R,2S)-2-hydroxy-2,3-dihydro-1H-inden-1-yl]amino}pyrazine-2-carboxylate | ClC1=C(C=CC(=C1)Cl)C=1C(=NC(=CN1)N[C@H]1[C@H](CC2=CC=CC=C12)O)C(=O)OC | C21H17Cl2N3O3
product | methyl 5-bromo-3-(2,4-dichlorophenyl)-6-{[(1R,2S)-2-hydroxy-2,3-dihydro-1H-inden-1-yl]amino}pyrazine-2-carboxylate | BrC=1N=C(C(=NC1N[C@H]1[C@H](CC2=CC=CC=C12)O)C(=O)OC)C1=C(C=C(C=C1)Cl)Cl | C21H16BrCl2N3O3
